### PR TITLE
Proof of unwinding for havoc call.

### PR DESCRIPTION
**Pull request by aferr**
# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 1]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
 Proof.
 Admitted. (* WIP *)
 
+Theorem state_upd_node_eq: forall id n s,
+    (state_upd_node id n s).(nodes).[? id] = Some n.
+intros.
+rewrite fnd_set. destruct (id == id) eqn:E.
+rewrite E. reflexivity.
```
Comment (aferr) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:89]: Maybe this turns out to be really easy for either @jadephilipoom or @jieungkim ? (Don't feel obligated though :) )

Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:89]: I'm no expert on ssreflect, so maybe there's a more elegant solution. But this seems to work:
```coq
intros.
rewrite fnd_set.
rewrite (introT (@eqP node_id id id)); congruence.
```

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 2]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+    state_low_eq ell (state_upd_node id n1 s1) (state_upd_node id n2 s2).
+Proof.
+    intros. inversion H0. 
+    split.
+    - (* nodes *) 
+        intros id'. destruct (id' =P id). 
+        + (* eq *) 
+            rewrite e. 
+            rewrite state_upd_node_eq.
+            rewrite state_upd_node_eq. assumption.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:117]: Adding a `!` means "rewrite 1 or more times" and might be useful here. (Adding a `?` means "rewrite 0 or more times").
```suggestion
            rewrite !state_upd_node_eq. assumption.
```

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 3]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
-Admitted. (* WIP *)
+    intros.
+    destruct t1; destruct t2; simpl in *; subst.
+    - (* nil, nil *) constructor.
+    - (* nil, not nil *) inversion H.
+    - (* not nil, nil *) inversion H.
+    - destruct p. destruct p0. inversion H; subst.
+    constructor 2; try assumption.
+    eapply set_call_unwind; assumption.
+Qed. (* WIP *)
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:169]:
```suggestion
Qed.
```

**Review by jadephilipoom — APPROVED** [review]

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 4]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+    - (* nodes *) 
+        intros id'. destruct (id' =P id). 
+        + (* eq *) 
+            rewrite e. 
+            rewrite state_upd_node_eq.
+            rewrite state_upd_node_eq. assumption.
+        + (* neq *) 
+            rewrite state_upd_node_neq.
+            rewrite state_upd_node_neq.
+            apply (H1 id'). assumption. assumption.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:121]: The same thing that  @jadephilipoom mentioned will be applied to here use ! when rewrite multiple things.

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 5]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+Proof.
+    intros. inversion H; subst.
+    unfold s_set_call.
+    destruct (s1.(nodes).[? id]) eqn:E1; destruct (s2.(nodes).[? id]) eqn:E2.
+    - (* some, some *)
+        assert (E: node_low_eq ell 
+            (n <| ncall ::= (fun=> c) |>)
+            (n0 <| ncall ::= (fun=> c) |>)).
+        {
+            specialize (H0 id). rewrite E1 in H0. rewrite E2 in H0.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:138]: rewrite E1 E2 in H0.

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 6]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+            inversion H0; subst.
+            constructor; reflexivity.
+            constructor 2; assumption.
+        }
+        eapply state_upd_unwind_from_leqn; assumption.
+    - (* some, none *)
+        exfalso. specialize (H0 id).
+        rewrite E1 in H0. rewrite E2 in H0.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:146]: ditto

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 7]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+        assumption.
+    - (* none, some *)
+        exfalso. specialize (H0 id).
+        rewrite E1 in H0. rewrite E2 in H0.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:150]: ditto

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 8]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+
 Theorem call_havoc_unwind: forall ell id c t1 t2 t1' t2',
     (trace_low_eq ell t1 t2) ->
     (t1' = head_set_call t1 id c) ->
     (t2' = head_set_call t2 id c) ->
     (trace_low_eq ell t1' t2').
 Proof.
-Admitted. (* WIP *)
+    intros.
+    destruct t1; destruct t2; simpl in *; subst.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:162]: destruct t1, t2.

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 9]
```diff
@@ -82,13 +82,91 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+    - (* nil, nil *) constructor.
+    - (* nil, not nil *) inversion H.
+    - (* not nil, nil *) inversion H.
+    - destruct p. destruct p0. inversion H; subst.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:166]: ditto.
